US04165378
3-Aminopropanethiol hydrochloride (2.54 g.) in ethanol (20 ml.) was added to a solution of sodium ethoxide (1 g. Na in 25 ml. ethanol) at 0° C. under a nitrogen atmosphere. The suspension was stirred at 0° C. for 2 hours and a solution of 2-guanidino-4-chloromethylthiazole hydrochloride (2.27 g.) in ethanol (25 ml.) was then added. The suspension was allowed to reach room temperature and stirred for 16 hours. Filtration of the suspension and acidification of the filtrate with concentrated hydrochloric acid gave a precipitate of 2-guanidino-4-[(3-aminopropyl)thiomethyl]thiazole hydrochloride, m.p.> 350° C.

reactant | 3-Aminopropanethiol hydrochloride | 2.54 g | Cl.NCCCS
reactant | sodium ethoxide | 25 ml, 1 g | [O-]CC.[Na+]
reactant | 2-guanidino-4-chloromethylthiazole hydrochloride | 2.27 g | Cl.N(C(=N)N)C=1SC=C(N1)CCl
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-guanidino-4-[(3-aminopropyl)thiomethyl]thiazole hydrochloride | Cl.N(C(=N)N)C=1SC=C(N1)CSCCCN | InChI=1S/C8H15N5S2.ClH/c9-2-1-3-14-4-6-5-15-8(12-6)13-7(10)11;/h5H,1-4,9H2,(H4,10,11,12,13);1H
